US05411989
N-(trans-4-nitroxycyclohexyl)-succinic acid monoamide
N-(trans-4-nitroxycyclohexylmethyl)-succinic acid monoamide from trans-4-nitroxycyclohexylmethylamine and succinic acid anhydride melting point: 79°-81° C. (ether), yield: 80%.

reactant | N-(trans-4-nitroxycyclohexylmethyl)-succinic acid monoamide | O([N+](=O)[O-])[C@@H]1CC[C@H](CC1)CNC(CCC(=O)O)=O | C11H18N2O6
reactant | trans-4-nitroxycyclohexylmethylamine | O([N+](=O)[O-])[C@@H]1CC[C@H](CC1)CN | C7H14N2O3
reactant | succinic acid anhydride | C1(CCC(=O)O1)=O | C4H4O3
product | N-(trans-4-nitroxycyclohexyl)-succinic acid monoamide | yield: 80% | O([N+](=O)[O-])[C@@H]1CC[C@H](CC1)NC(CCC(=O)O)=O | C10H16N2O6
